US04017492
In the manner given in Example 13, 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be stirred with 5-(dimethylamino)-2-oxopentanoic acid at room temperature to give 7-chloro-2-[[1-carboxy-4-(dimethylamino)butylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | 5-(dimethylamino)-2-oxopentanoic acid | CN(CCCC(C(=O)O)=O)C | C7H13NO3
product | 7-chloro-2-[[1-carboxy-4-(dimethylamino)butylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCCN(C)C)C(=O)O)C2=C(C=CC=C2)Cl)C1 | C22H23Cl2N5O2
